US06121201
3-[4-Chloro-2-fluoro-5-(trifluoromethyl-2-pyridyloxy)phenyl]-1-ethylimidazolidine-2,4-dione (Compound 8-1).
A solution of N-[4-chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenyl]-2-ethylaminoacetamide (0.82 g) and 1,11 -carbonyldiimidazole (0.43 g) in toluene (20 ml) was heated at reflux for 2 hours, cooled and processed. Column chromatography on silica gel eluting with 2.5% methanol-methylene chloride gave a buff colored solid (0.8 g), mp 162-3° C. 1H NMR (CDCl3, TMS): 1.24(3H, t, J=7 Hz), 3.53(2H, q, J=7 Hz), 4.05(2H, s), 7.13(1H, m), 7.30(1H, d, J=7 Hz), 7.38(1H, d, J=9 Hz), 8.01(1H, m), 8.24(1H, m).

reactant | N-[4-chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenyl]-2-ethylaminoacetamide | 0.82 g | ClC1=CC(=C(C=C1OC1=NC=CC=C1C(F)(F)F)NC(CNCC)=O)F | C16H14ClF4N3O2
reactant | methanol methylene chloride | CO.C(Cl)Cl
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[4-Chloro-2-fluoro-5-(trifluoromethyl-2-pyridyloxy)phenyl]-1-ethylimidazolidine-2,4-dione | 0.8 g | ClC1=CC(=C(C=C1OC1=NC=CC=C1C(F)(F)F)N1C(N(CC1=O)CC)=O)F | C17H12ClF4N3O3
